US07179823B1
Diethyl azodicarboxylate (40% in toluene, 753 mg) was added dropwise slowly to a mixture of methyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate (500 mg), [5-methyl-2-(4-pyridyl)-4-oxazolyl]methanol (274 mg), triphenylphosphine (414 mg) and tetrahydrofuran (7 ml) at room temperature. After stirring at room temperature for 4 hours, the reaction solvent was removed under reduced pressure. The residue was subjected to silica gel column chromatography, and an oily substance was obtained from the fraction eluted with ethyl acetate-hexane (3:1, volume ratio). A mixture of the oily substance obtained, lithium hydroxide monohydrate (181 mg), tetrahydrofuran (6 ml), water (4 ml) and methanol (4 ml) was stirred at room temperature for 2 hours, and 1N hydrochloric acid (4.3 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield 3-[1-[4-[5-methyl-2-(4-pyridyl)-4-oxazolylmethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid (470 mg, yield: 68%). This was recrystallized from tetrahydrofuran-hexane. Melting point: 154–155° C.

reactant | Diethyl azodicarboxylate | 753 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate | 500 mg | OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1 | C20H20N2O3
reactant | [5-methyl-2-(4-pyridyl)-4-oxazolyl]methanol | 274 mg | CC1=C(N=C(O1)C1=CC=NC=C1)CO | C10H10N2O2
reactant | triphenylphosphine | 414 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium hydroxide monohydrate | 181 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 4.3 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 3-[1-[4-[5-methyl-2-(4-pyridyl)-4-oxazolylmethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid | 470 mg, yield: 68% | CC1=C(N=C(O1)C1=CC=NC=C1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C2=CC=CC=C2)C=C1 | C29H26N4O4
